Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1],3.83446557809
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13].[H:7],1.62900551578
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],5.13014903455
[H:13].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-1.99270434222
[H:4].[O:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-4.8390127221
[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])=[C:5]([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2],6.11195532541
[C:1].[C:2]=[C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10],-7.53489925352
[H:11].[H:1][C:2]([H:3])[O:4][C:5][C:6]#[C:7][C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-3.01134588806
[C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11],-3.39528087613
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[H:10].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9],5.98432708413
[H:10].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6](=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.0910394254000004
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]=[C:7](\[H:8])[O:9][H:10]>>[H:1][C:2]#[C:3][H:4].[O:5]=[C:6]=[C:7]([H:8])[O:9][H:10],-2.15609981221
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15]>>[C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15].[H:1][O:2],5.39021898078
[H:10].[H:1][O:2][C@:3]1([H:4])[C:5]([O:6][C:7]([H:8])[H:9])[C:11]1([H:12])[H:13]>>[H:1][O:2][C@@:3]1([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13],-4.1099455687800015
[C:1]#[C:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])[C:6]#[C:8][H:9].[C:5]([H:7])([H:10])[H:11],2.67325368523
[O:1]=[C:2]([H:3])[C@:4]1([C:5]([H:6])([H:7])[H:8])[O:9][C:10]1[H:11]>>[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])[C:10](=[O:9])[H:11],-1.76401887967
[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10][H:11]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]1([H:7])[C:8]([H:9])=[C:10]1[H:11],-1.7124997409399998
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]#[C:3][C@:4]([H:5])([C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13],4.62746861248
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3][C:4]1[O:5][C@@:6]1([H:7])[C:8]([H:9])([H:10])[H:11],-0.5160532521
[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]=[O:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.78947668875
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12]>>[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12].[O:4][H:5],2.9405980778
[C:5]([H:6])[H:7].[H:1][C:2][O:3][C:4]=[C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])[H:7])=[C:8]([H:9])[H:10],-6.51408301402
[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.20237613372
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8][H:9]>>[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13],-4.57472381956
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[H:5],3.4591558972900005
[H:1][O:2][C:3][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:4][H:5]>>[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-5.11349315737
[H:1][C:2]1=[C:3][O:4][C:5]([H:6])([H:7])[C:8][O:9]1>>[H:1][C:2](=[C:3]=[O:4])[O:9][C:8]=[C:5]([H:6])[H:7],-1.29362935515
[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.92905129705
